US07273882B2
Step AT2. To a solution of 4-acetamido-3,5-dichloro-benzonitrile (114 mg, 0.5 mmol) in 5 mL of THF was added lithium aluminum hydride (120 mg, 3.2 mmol) in portion and the resulting mixture was stirred for 3 hours. Sodium sulfate decahydrate (1 g, 3.2 mmol) was added in portion and the mixture was stirred for 30 minutes. The solid was filtered off and the filtration was concentrated. Residue was purified by HPLC to give 4-acetamido-3,5-dichloro-benzylamine (35 mg, 30%).

reactant | 4-acetamido-3,5-dichloro-benzonitrile | 0.5 mmol, 114 mg | C(C)(=O)NC1=C(C=C(C#N)C=C1Cl)Cl | C9H6Cl2N2O
reactant | lithium aluminum hydride | 3.2 mmol, 120 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 3.2 mmol, 1 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-acetamido-3,5-dichloro-benzylamine | 35 mg, 30% | C(C)(=O)NC1=C(C=C(CN)C=C1Cl)Cl | C9H10Cl2N2O
